US07855193B2
4-(5-cyclohexylbenzofuran-2-yl)2-fluorobenzaldehyde (Step 3 in Scheme 2)
A mixture of 5-cyclohexylbenzofuran-2-ylboronic acid (75 mg, 0.30 mmol), 4-bromo-2-fluorobenzaldehyde (48 mg, 0.24 mmol), triethylamine (1.1 mL, 7.5 mmol) and bis(triphenylphosphine)palladium(II)chloride (12 mg, 0.05 mmol) in ethanol (11 mL) was irradiated in a microwave instrument at 100° C. for 20 min. The reaction mixture was cooled, and the solvent was removed. The residue was treated with water and extracted with ethyl acetate. The organic layer was dried and concentrated in vacuo (the aqueous work-up is optional). Purification by silica gel chromatography on ISCO system gave the title compound (51 mg, 49% yield). 1H NMR (400 MHz, CDCl3) δ 10.04 (s, 1H), 8.00-7.97 (m, 2H), 7.46 (s, 1H), 7.43 (d, 2H), 7.32 (s, 1H), 7.25 (d, 1H), 2.62 (m, 1H), 1.95-1.77(m, 4H), 1.58-1.56 (m, 4H), 1.46-1.44 (m, 2H). MS (ESI) m/z: Calculated: 322.27; Observed: 323.2 (M++1).

reactant | 5-cyclohexylbenzofuran-2-ylboronic acid | 0.30 mmol, 75 mg | C1(CCCCC1)C=1C=CC2=C(C=C(O2)B(O)O)C1 | C14H17BO3
reactant | 4-bromo-2-fluorobenzaldehyde | 0.24 mmol, 48 mg | BrC1=CC(=C(C=O)C=C1)F | C7H4BrFO
reactant | triethylamine | 7.5 mmol, 1.1 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 11 mL | C(C)O | C2H6O
catalyst | bis(triphenylphosphine)palladium(II)chloride | 0.05 mmol, 12 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 4-(5-cyclohexylbenzofuran-2-yl)2-fluorobenzaldehyde | 51 mg, 49% yield | C1(CCCCC1)C=1C=CC2=C(C=C(O2)C2=CC(=C(C=O)C=C2)F)C1 | C21H19FO2
